US08664443B2
To a solution of benzyl N-[(1S)-2-[(1S,3S,5S)-3-cyano-2-azabicyclo[3.1.0]hexan-2-yl]-1-(3-hydroxyadamantan-1-yl)-2-oxo-ethyl]carbamate (10 gm) (formula-IX) in acetonitrile, 5% Pd/C (50% wet, 1 gm) was added. Hydrogen gas was bubbled through the reaction mass for 4 hrs at 20-25° C. After the starting material was completely converted, the reaction mass was filtered and the filtrate evaporated to yield SAXAGLIPTIN free base of formula-I as a foamy solid. To the solid ethyl acetate (5 ml), 20 micro liters of water and n-hexane (20 ml) were added; the mixture stirred at 0-5° C. and filtered the white solid formed to yield 7.06 gm (95%) of SAXAGLIPTIN MONO HYDRATE. HPLC Purity: 99.7% (A) and the content of the impurity cyclic amidine: 0.07% (A), M.P: 105-108° C., H1NMR (300 MHz, Methanol-d4): 0.83-1.06 (m, 2H), 1.36-1.7 (m, 12H), 1.79-1.88 (ddd, 1H), 2.19 (m, 2H), 2.23 (dd, 1H), 2.46-2.56 (ddd, 1H), 3.49 (s, 1H), 3.72-3.77 (ddd, 1H), 4.96-5.01 (dd, 1H).

reactant | benzyl N-[(1S)-2-[(1S,3S,5S)-3-cyano-2-azabicyclo[3.1.0]hexan-2-yl]-1-(3-hydroxyadamantan-1-yl)-2-oxo-ethyl]carbamate | 10 gm | C(#N)[C@H]1N([C@H]2C[C@H]2C1)C([C@H](C12CC3(CC(CC(C1)C3)C2)O)NC(OCC2=CC=CC=C2)=O)=O | C26H31N3O4
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd/C | 1 gm | [Pd] | Pd
product | SAXAGLIPTIN | C1[C@@H]2C[C@@H]2N([C@@H]1C#N)C(=O)[C@H](C34CC5CC(C3)CC(C5)(C4)O)N | C18H25N3O2
